US09290451B2
a) 5-(Cyclopropylamino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester
Cyclopropanamine (CAS 765-30-0, 158 mg, 2.8 mmol), bis(diphenylphosphino)-1,1′-binaphthalene (CAS 98327-87-8, 115 mg, 0.19 mmol), tris(dibenzylideneacetone)dipalladium (CAS 51364-51-3, 84 mg, 0.093 mmol) and cesium carbonate (CAS 534-17-8, 1.8 g, 6.6 mmol) were added to solution of 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester (Example 114 a, 530 mg, 1.85 mmol) in toluene (20 mL) under a nitrogen atmosphere. The reaction mixture was stirred overnight at 110° C. and concentrated in vacuo. The residue was dissolved in water and extracted with ethyl acetate (30 mL). The pH of the aqueous layer was adjusted to 2 by addition of 1 N HCl, the resulting precipitate was collected by filtration, dried in vacuo and purified by column chromatography (silica gel, 50 g, 50% ethyl acetate in petroleum ether) to yield the title compound (400 mg, 82%) as a yellow solid; MS (EI): m/e=263.1 [M+H]+.

reactant | Cyclopropanamine | 2.8 mmol, 158 mg | C1(CC1)N | C3H7N
reactant | bis(diphenylphosphino)-1,1′-binaphthalene | 0.19 mmol, 115 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C=1C(=C(C2=CC=CC=C2C1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 6.6 mmol, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C11H12BrNO3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.093 mmol, 84 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(Cyclopropylamino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | 400 mg, 82% | COC(=O)C1=NC(=C(C=C1)NC1CC1)OCC1CC1 | C14H18N2O3
